US04920116
N-[2-(Diethylamino)ethyl]-4-[(methylsulfonyl)amino]-N-(1-napthaleny)benzamide hydrochloride
In a manner similar to Example I react N,N-diethyl-N'-(1-naphthalenyl)-1,2-ethanediamine with 4-[(methylsulfonyl)amino]benzoyl chloride to obtain the title compound.

reactant | N,N-diethyl-N'-(1-naphthalenyl)-1,2-ethanediamine | C(C)N(CCNC1=CC=CC2=CC=CC=C12)CC | C16H22N2
reactant | 4-[(methylsulfonyl)amino]benzoyl chloride | CS(=O)(=O)NC1=CC=C(C(=O)Cl)C=C1 | C8H8ClNO3S
product | N-[2-(Diethylamino)ethyl]-4-[(methylsulfonyl)amino]-N-(1-napthaleny)benzamide hydrochloride | Cl.C(C)N(CCN(C(C1=CC=C(C=C1)NS(=O)(=O)C)=O)C1=CC=CC2=CC=CC=C12)CC | InChI=1S/C24H29N3O3S.ClH/c1-4-26(5-2)17-18-27(23-12-8-10-19-9-6-7-11-22(19)23)24(28)20-13-15-21(16-14-20)25-31(3,29)30;/h6-16,25H,4-5,17-18H2,1-3H3;1H
